US06677368B2
To a solution of 4-(3-chloro-4-fluoro-phenyl)-1,3-dihydro-indol-2-one (65.4 mg, 0.25 mmol) and 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide (68.5 mg, 0.26 mmol) in ethanol (2 mL) was added piperidine (3 drops). The reaction mixture was stirred at room temperature for three days. A yellow solid product was precipitated out, filtered, washed by ethanol for three times, and dried under high vacuum to provide pure product 2-[4-(3-chloro-4-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide as a yellow solid (103 mg, 81%).

reactant | 4-(3-chloro-4-fluoro-phenyl)-1,3-dihydro-indol-2-one | 0.25 mmol, 65.4 mg | ClC=1C=C(C=CC1F)C1=C2CC(NC2=CC=C1)=O | C14H9ClFNO
reactant | 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide | 0.26 mmol, 68.5 mg | N1(CCCC1)CCCNC(=O)C1=C(NC(=C1)C)C=O | C14H21N3O2
solvent | ethanol | 2 mL | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 2-[4-(3-chloro-4-fluoro-phenyl)-2-oxo-1,2-dihydro-indol-3-ylidenemethyl]-5-methyl-1H-pyrrole-3-carboxylic acid (3-pyrrolidin-1-yl-propyl)-amide | 103 mg, 81% | N1(CCCC1)CCCNC(=O)C1=C(NC(=C1)C)C=C1C(NC2=CC=CC(=C12)C1=CC(=C(C=C1)F)Cl)=O | C28H28ClFN4O2
